US05990139
Synthesis of 2-[1-(α,α,α-trifluoro-4-tolyl)-2-imidazolidinon-3-yl]ethanol (Compound No. 16)
To a solution of 38 g of α-{2-[1-(α,α,α-trifluoro-4-tolyl)-2-imidazolidinon-3-yl]ethoxy]toluene in 400 ml of 1,4-dioxane, 15 g of 7.5% palladium carbon were added, followed by stirring under a hydrogen gas stream at 50° C. and 30 atm for 15 hours. After the reaction mixture was filtered, the filtrate was concentrated under reduced pressure. Resulting crystals were collected by filtration and then washed with ether, whereby 16.4 g of the title compound were obtained (yield: 58%).

reactant | α-{2-[1-(α,α,α-trifluoro-4-tolyl)-2-imidazolidinon-3-yl]ethoxy]toluene | 38 g | FC(C1=CC=C(C=C1)N1C(N(CC1)CCOCC1=CC=CC=C1)=O)(F)F | C19H19F3N2O2
solvent | 1,4-dioxane | 400 ml | O1CCOCC1 | C4H8O2
catalyst | palladium carbon | 15 g | [C].[Pd]
product | 2-[1-(α,α,α-trifluoro-4-tolyl)-2-imidazolidinon-3-yl]ethanol | 16.4 g, yield: 58% | FC(C1=CC=C(C=C1)N1C(N(CC1)CCO)=O)(F)F | C12H13F3N2O2
